US08404679B2
a) rac-[(3S,4R)-1-(4-Cyano-benzoyl)-4-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-methyl-carbamic acid tert-butyl ester (X-5)
To a solution of rac-[(3S,4R)-4-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-methyl-carbamic acid tert-butyl ester (810 mg, 2.35 mmol, described herein above) in CH2Cl2 (20 ml) was added triethyl-amine (0.42 ml, 3.05 mmol) and 4-cyano-benzoyl chloride (466 mg, 2.81 mmol). Stirring was continued over night at RT, concentrated under vacuo and purification by flash chromatography (SiO2, EtOAc/Hx 2:1) afforded 1.09 g (98%) of the title compound as a white foam. ES-MS m/e: 474.4 (M+H+).

reactant | rac-[(3S,4R)-4-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-methyl-carbamic acid tert-butyl ester | 2.35 mmol, 810 mg | C(C)(C)(C)OC(N(C)[C@@H]1CNC[C@H]1C1=CC(=C(C=C1)Cl)Cl)=O | C16H22Cl2N2O2
reactant | triethyl-amine | 3.05 mmol, 0.42 ml | C(C)N(CC)CC | C6H15N
reactant | 4-cyano-benzoyl chloride | 2.81 mmol, 466 mg | C(#N)C1=CC=C(C(=O)Cl)C=C1 | C8H4ClNO
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
product | rac-[(3S,4R)-1-(4-Cyano-benzoyl)-4-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-methyl-carbamic acid tert-butyl ester | 1.09 g, 98% | C(C)(C)(C)OC(N(C)[C@@H]1CN(C[C@H]1C1=CC(=C(C=C1)Cl)Cl)C(C1=CC=C(C=C1)C#N)=O)=O | C24H25Cl2N3O3
